US04479942
A mixture of diphenylmethyl ester of N-tert-butoxycarbonyl-L-tyrosine (447 mg) prepared in Preparation 7 (1), N-(3-bromopropyl)phthalimide (644 mg) and potassium tert-butoxide (268 mg) in dimethyl sulfoxide (7 ml) was stirred for 6 hours at room temperature. The reaction mixture was diluted with water, and extracted with diethyl ether. The extract was washed with water and brine, dried, and evaporated to dryness to give diphenylmethyl ester of N-tert-butoxycarbonyl-O-(3-phthalimidopropyl)-L-tyrosine quantitatively as oil.

reactant | N-tert-butoxycarbonyl-L-tyrosine | 447 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | N-(3-bromopropyl)phthalimide | 644 mg | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium tert-butoxide | 268 mg | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-tert-butoxycarbonyl-O-(3-phthalimidopropyl)-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)O | C25H28N2O7
